US08030435B2
3.1 mL (0.03 moles) of 50% aqueous hypophosphorous acid and 16.92 g (0.06 moles) of methyl oleate (CE-1897 from P&G Chemical; iodine value=90) are mixed in a 100 mL single neck flask equipped with a distillation head. The mixture is purged with argon to remove oxygen and is heated under argon at 140° C. to remove water. After water is removed the mixture is cooled and 0.5 mL (0.0023 moles) of di-tert-amylperoxide are added and the mixture is purged with argon to remove oxygen and is heated under argon for 5 hours at 140° C. Tert-amyl alcohol is removed by distillation and 18.9 g (quantitative yield) of 9-{hydroxy-[1-(7-methoxycarbonyl-heptyl)-decyl]-phosphinoyl}-octadecanoic acid methyl ester (mixture of isomers) is obtained as a colorless wax melting near ambient temperature.

reactant | hypophosphorous acid | 0.03 moles, 3.1 mL | [PH2](=O)O | H3O2P
reactant | methyl oleate | 0.06 moles, 16.92 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
catalyst | di-tert-amylperoxide | 0.0023 moles, 0.5 mL | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
product | 9-{hydroxy-[1-(7-methoxycarbonyl-heptyl)-decyl]-phosphinoyl}-octadecanoic acid methyl ester | 18.9 g, quantitative yield | COC(CCCCCCCC(CCCCCCCCC)P(=O)(C(CCCCCCCCC)CCCCCCCC(=O)OC)O)=O | C38H75O6P
